US07935699B2
In a round bottom flask was placed 2-isopropoxy-ethanol (700 mg, 6.72 mmol) dissolved in methylene chloride (15 mL) and cooled to 0° C. in an ice bath. To this solution was added triethylamine (1.2 mL, 8.7 mmol) and para-toluenesulfonyl chloride (1.54 g, 8.06 mmol). The resulting solution was then slowly allowed to warm to 25° C. and was stirred for 16 h. After this time, the reaction was transferred to a separatory funnel and washed with water (15 mL). The aqueous layer was then extracted with methylene chloride (2×20 mL). The organic layers were combined and then dried over sodium sulfate, filtered and concentrated in vacuo. Purification on an AnaLogix Intelliflash system (40 g column, 25% ethyl acetate/hexanes) afforded toluene-4-sulfonic acid 2-isopropoxy-ethyl ester (1.41 g, 81%).

reactant | 2-isopropoxy-ethanol | 6.72 mmol, 700 mg | C(C)(C)OCCO | C5H12O2
reactant | triethylamine | 8.7 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | para-toluenesulfonyl chloride | 8.06 mmol, 1.54 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | toluene-4-sulfonic acid 2-isopropoxy-ethyl ester | 1.41 g, 81% | C(C)(C)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C12H18O4S
